US07592477B2
Step a) Formation of 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde
The same procedure as employed in the preparation of Example 277 (step a) but using 4-carboxybenzaldehyde and N-hydroxynonanimidamide gave the title compound as a beige solid (34%). 1H NMR (CDCl3, 300 MHz) δ 10.1 (s, 1H), 8.29 (d, 2H, J=8.3 Hz), 8.03 (d, 2H, J=8.3 Hz), 2.81 (t, 2H, J=7.4 Hz), 1.86-1.75 (m, 2H), 1.46-1.21 (m, 10H), 0.87 (m, 3H). HPLC (Condition A), Rt: 5.16 min (HPLC purity: 95.4%).

reactant | 4-carboxybenzaldehyde | C(=O)(O)C1=CC=C(C=O)C=C1 | C8H6O3
reactant | N-hydroxynonanimidamide | ONC(CCCCCCCC)=N | C9H20N2O
product | 4-(3-octyl-1,2,4-oxadiazol-5-yl)benzaldehyde | 34% | C(CCCCCCC)C1=NOC(=N1)C1=CC=C(C=O)C=C1 | C17H22N2O2
